US08835420B2
(S)—N6-(1-(1-Methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)-9H-purine-2,6-diamine
To a 10 mL vial were added (S)-1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (100 mg, 0.384 mmol), 6-chloro-9H-purin-2-amine (65.1 mg, 0.384 mmol) and Et3N (0.11 mL, 0.77 mmol) in DMF (3 mL). The resulting yellow solution was heated to 90° C. and stirred overnight. The reaction mixture was purified by preparative HPLC eluting with 20-40% ACN in water (with 0.05% ammonium formate). The fractions containing the desired product were combined and lyophilized to give the title compound as a white solid (38 mg, 25%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.38-1.52 (m, 4 H), 2.68-2.86 (m, 3 H), 3.01-3.18 (m, 3 H), 3.69-3.95 (m, 9 H), 5.62-5.82 (m, 2 H), 5.88-6.08 (m, 1 H), 6.46-6.59 (m, 2 H), 6.74-6.92 (m, 1 H), 7.52-7.59 (m, 1 H), 7.59-7.74 (m, 1 H), 7.76-7.90 (m, 1 H), 12.00-12.22 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C19H23N9O, 394. found 394.

reactant | (S)-1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.384 mmol, 100 mg | CN1C=CC2=NC(=C(C=C21)N2CCOCC2)[C@H](C)N | C14H20N4O
reactant | 6-chloro-9H-purin-2-amine | 0.384 mmol, 65.1 mg | ClC1=C2N=CNC2=NC(=N1)N | C5H4ClN5
reactant | Et3N | 0.77 mmol, 0.11 mL | CCN(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)—N6-(1-(1-Methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)-9H-purine-2,6-diamine | 38 mg, 25% | CN1C=CC2=NC(=C(C=C21)N2CCOCC2)[C@H](C)NC2=C1N=CNC1=NC(=N2)N | C19H23N9O
